Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Mr. ___ is a ___ y/o man with
history of hypertension who presented after a fall with
headstrike.

He reports that he was in his usual state of health. He was at
his church in ___ on the day of presentation, and he was
going to the basement to look for a shovel to clear the snowy
sidewalk. It was dark, and as he felt for the light switch he
lost his footing and tumbling down a flight of stairs. He does
not recall losing consciousness. He does remember the falling
down the stairs. The next thing that he recalls is being 
upstairs
in the church with his wife. His wife corroborates this, and 
adds
that she found her husband in the church with significant
bleeding from the back of his head. She also reports finding
blood at the bottom of the stairs and along the walls of the
stairwell.

Mr. ___ reports that he felt well up until the fall. He had a
mild cold characterized by nasal congestion, but otherwise felt
well. He had no fevers, chills, chest pain, palpitations, 
nausea,
diaphoresis, dizziness, lightheadedness, shortness of breath,
cough or any other symptoms. He had no symptoms immediately
antecedent to the fall. He has never had a fall or lost
consciousness before. He reports that he is able to climb a
flight of stairs without chest discomfort or shortness of 
breath.

He was brought by ambulance to the ___ ED.
In the ED, initial vitals were: 98.5 92 152/63 17 99% RA
Exam notable for: 2 cm complex laceration left occiput, with
boggy hematoma, no palpable skull fracture
Labs notable for: WBC 12.7 H/H ___, plt 144, lactate 2.4, BMP
wnl
EKG: NSR at 70 bpm, mild first-degree AV block (PR 234), NA,
otherwise normal intervals, no acute ST-Twave changes
 
Past Medical History:
hypertension
BPH 
GERD
 
Social History:
___
Family History:
Mother with multiple myeloma. No known family
history of CAD, MI, CHF
 
Physical Exam:
Vitals:
___ 1520 Temp: 98.3 PO BP: 154/78 HR: 72 RR: 18 O2 sat: 96%
O2 delivery: Ra
Telemetry: Reviewed, normal sinus rhythm, no events
General: AOx3, in no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear; sutured
occipital laceration  
Neck: Supple, JVP not elevated 
CV: RRR, S1/S2, no m/r/g; no carotid bruits
Lungs: CTAB, no wheezes, rales, or rhonchi  
GI: Soft, NT/ND, BS+  
MSK: Warm, well perfused, 2+ pulses, no edema; mild tenderness 
to
palpation over left dorsal forearm
Neuro: CN2-12 tested and intact
Skin: No rash or lesion
 
Pertinent Results:
___ 02:01PM   GLUCOSE-134* UREA N-25* CREAT-1.2 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-27 ANION GAP-12
___ 02:01PM   estGFR-Using this
___ 02:01PM   WBC-12.7*# RBC-4.62 HGB-15.3 HCT-44.9 MCV-97 
MCH-33.1* MCHC-34.1 RDW-12.4 RDWSD-44.2
___ 02:01PM   NEUTS-86.8* LYMPHS-6.9* MONOS-5.4 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-11.05* AbsLymp-0.87* AbsMono-0.68 
AbsEos-0.01* AbsBaso-0.02
___ 02:01PM   PLT COUNT-144*
___ 10:19AM   PH-7.44 COMMENTS-GREEN TOP
___ 10:19AM   GLUCOSE-113* LACTATE-2.4* NA+-139 K+-5.7* 
CL--103 TCO2-25
___ 10:19AM   HGB-15.8 calcHCT-47 O2 SAT-86 CARBOXYHB-3 MET 
HGB-0
___ 10:19AM   freeCa-0.99*
___ 10:09AM   VoidSpec-SAMPLE REJ
___ 10:09AM   WBC-7.5 RBC-4.65 HGB-15.7 HCT-45.6 MCV-98 
MCH-33.8* MCHC-34.4 RDW-12.5 RDWSD-45.1
___ 10:09AM   PLT COUNT-142*
___ 10:09AM   ___ PTT-28.2 ___
___ 10:09AM   ___
 
Brief Hospital Course:
He was brought by ambulance to the ___ ED.
In the ED, initial vitals were: 98.5 92 152/63 17 99% RA
Exam notable for: 2 cm complex laceration left occiput, with
boggy hematoma, no palpable skull fracture
Labs notable for: WBC 12.7 H/H ___, plt 144, lactate 2.4, BMP
wnl
EKG: NSR at 70 bpm, mild first-degree AV block (PR 234), NA,
otherwise normal intervals, no acute ST-Twave changes
Imaging:
- NCHCT: 
1. No acute intracranial process.
2. No fractures. Left occipital scalp laceration and underlying
subcutaneous swelling and air.
3. Paranasal sinus disease as described above.
- CT C-spine: 
1. No acute fracture or traumatic malalignment.
2. Multilevel degenerative changes of the cervical supine as
described above.
- CXR: No comparison. The lung volumes are normal. Normal size 
of
the cardiac silhouette. Mild elongation of the descending aorta.
No evidence of rib fractures. No pneumothorax, no pulmonary
edema, no pleural effusions. No pneumonia. 
Consults: None

The patient was admitted to the general surgery service. His
laceration was repaired. He presented on ___, stayed 
overnight for monitoring, and was appropriate for discharge on 
___. During his stay, his vital signs were stable and is 
pain was adequately controlled. He was discharged with the 
appropriate medications and instructions for follow up and 
monitoring his status after discharge.
 
Medications on Admission:
- Atenolol 75 mg ___
- Trandalopril 1 mg ___
- Tamsulosin 0.4 mg QHS
- Omeprazole 20 mg ___
 
Discharge Medications:
Home medications and:

1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fall from standing

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, You were admitted to ___ after you sustained 
your fall. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Please make sure to take your time changing positions and/or 
getting up from a laying or sitting position. 

 
Followup Instructions:
___